*****************************************************************
* NXP PSMN1R2_25YLC
*
* Polarity N-Channel
* Ratings 25V/1.48E-03OHMS/25A
*
* Date Created Sat Apr 2 17:43:08 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN1R2_25YLC DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360105685013
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
*RLS1 8 7 0.00035
RLS1 8 7 0.00030

RDS 7 4 25000000 TC=-0.05

RS 6 7 0.0001

*RD 3 4 0.000822569706594721 TC=0.00878242201965259,-1.10700727091093e-05
RD 3 4 0.000722569706594721 TC=0.00878242201965259,-1.10700727091093e-05
RBD 9 4 0.000678253395107961 TC=0.00878242201965259,-1.10700727091093e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 3.5449264026932e-09
RG 1 2 0.976633761817533

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	3800
+ -10	3734
+ -5	3786
+ -4	3734
+ -3	3711
+ -2	3158
+ -1	2264
+ -0.5	1854
+ -0.2	1611
+ -0.1	1529
+ 0	1453.7
+ 0.1	1343.3
+ 0.2	1242.4
+ 0.5	1011.4
+ 1	799.8
+ 2	619.4
+ 3	535.5
+ 4	484
+ 5	448.6
+ 6	422.4
+ 8	385.3
+ 10	361
+ 12	344.7
+ 20	307.5
+ 25	294.3

*ETA =1000 was 0
.MODEL MINT NMOS(Vto=1.99962133243401 Kp=5.9951e+02 Nfs=400000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Lambda=0 Is=1e-24
+ Js=0 Vmax=1000)

*Bv was 25 now 26, Cjo increase by 0.5nF
.MODEL DBD D(Bv=26.00 Ibv=2.50E-04 Rs=1E-6 Is=1.78730595503702e-12
+ N=1 M=0.63 VJ=0.73 Fc=0.5 Cjo=4.5256e-09 Tt=4.11e-08)

.ENDS




